US06908939B2
10 g (31.6 mmol) of 4′-(2-methoxyethoxymethoxy)biphenyl-4-carboxylic acid methyl ester, 100 ml of methanol and 31 ml of a 10 M NaOH solution are introduced, in order, into a 250 ml three-necked flask. The mixture is stirred at 80° C. for 30 minutes. After returning to room temperature, the reaction medium is poured over water and acidified with a 1 N HCl solution. The precipitate is filtered off. It is taken up in heptane. After filtering and drying, 9 g of 4′-(2-methoxyethoxymethoxy)biphenyl-4-carboxylic acid are obtained in the form of a beige powder (yield=98%).

reactant | 4′-(2-methoxyethoxymethoxy)biphenyl-4-carboxylic acid methyl ester | 31.6 mmol, 10 g | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCOCCOC | C18H20O5
reactant | methanol | 100 ml | CO | CH4O
reactant | NaOH | 10 M | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
product | 4′-(2-methoxyethoxymethoxy)biphenyl-4-carboxylic acid | 9 g | COCCOCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C17H18O5
